US03985730
To a mixture of 3 parts of 5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine110-carbonitrile with approximately 30 parts of tetrahydrofuran and 5 parts of N,N-dimethylformamide is added 6 parts of sodium hydride, followed by 3 parts of 2-chloro-N,N-diethylethanamine hydrochloride. The resultant mixture is heated at the boiling point under reflux with stirring while thin layer chromatography is employed to monitor the reaction which ensues, additional sodium hydride being introduced as indicated thereby. After approximately 3 hours, when no 5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile is detectable, excess sodium hydride is destroyed by adding water until evolution of hydrogen ceases, whereupon solvent is removed by vacuum distillation. The residue is partitioned between ether and water. The ethereal phase, dried over magnesium sulfate and stripped of solvent by vacuum distillation, affords 10-[2-(diethylamino)ethyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-l-carbonitrile as a clear yellow oil.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-N,N-diethylethanamine hydrochloride | Cl.ClCCN(CC)CC
reactant | 5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile | C(C)N1C2=C(CC(C3=C1C=CC=C3)C#N)C=CC=C2 | C17H16N2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 10-[2-(diethylamino)ethyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-l-carbonitrile | C(C)N(CCC1CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2C#N)CC | C23H29N3
